US07572801B2
2-[2-(2-Chloro-6-fluoro-phenyl)-ethoxymethyl]-7-fluoro-3H-pyrido[2,3-d]pyrimidin-4-one
The title compound was prepared in analogy to example 85 from 2,6-difluoropyridine-3-carboxylic acid and 2-[2-(2-chloro-6-fluoro-phenyl)-ethoxy]-acetamidine hydrochloride. Off-white solid. MS: m/e=352.2 [M+H+].

reactant | 2,6-difluoropyridine-3-carboxylic acid | FC1=NC(=CC=C1C(=O)O)F | C6H3F2NO2
reactant | 2-[2-(2-chloro-6-fluoro-phenyl)-ethoxy]-acetamidine hydrochloride | Cl.ClC1=C(C(=CC=C1)F)CCOCC(=N)N
product | 2-[2-(2-Chloro-6-fluoro-phenyl)-ethoxymethyl]-7-fluoro-3H-pyrido[2,3-d]pyrimidin-4-one | ClC1=C(C(=CC=C1)F)CCOCC=1NC(C2=C(N1)N=C(C=C2)F)=O | C16H12ClF2N3O2
